US06465508B1
N-(3-Hydroxyproyl)-1,3-benzodioxole-5-carboxamide
1,3-Benzodioxole -5-carboxylic acid (2.0 g, 12.0 mmol) and 3-amino-1propanol (0.8 ml, 15.6 mmol) were coupled according to the procedure of Example 17 to 1.74 g (65% yield) of a white solid. MP 112-113° C.; 1H NMR (DMSO-d6): δ1.65 (m, CH2), 3.27 (m, CH2), 3.42 (m, CH2), 4.45 (t, NH), 6.0 (s, CH2), 6.98 (d, 1 Ar H), 7.37 (d, 1 Ar H), 7.4 (d—d, 1 Ar H), 8.28 (t, NH) Electrospray Mass Spec: m/z 224.2 (M+H)+.

reactant | 1,3-Benzodioxole -5-carboxylic acid | 12.0 mmol, 2.0 g | O1COC2=C1C=CC(=C2)C(=O)O | C8H6O4
reactant | 3-amino-1propanol | 15.6 mmol, 0.8 ml | NCCCO | C3H9NO
product | N-(3-Hydroxyproyl)-1,3-benzodioxole-5-carboxamide | 17 to 1.74 g, 65% yield | OCCCNC(=O)C1=CC2=C(OCO2)C=C1 | C11H13NO4
